US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3,4-ethylenedioxyaniline were reacted to yield N2,N4-bis(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.88 (d, 1H, J=3.6 Hz), 7.23 (d, 1H, J=2.3 Hz), 7.15 (d, 1H, J=2.4 Hz), 7.00 (dd, 1H, J=3 and 8.1 Hz), 6.98 (dd, 1H, J=3 and 8 Hz), 6.83 (d, 1H, J=8.7 Hz), 6.81 (d, 1H, J=8.7 Hz), 6.7(s, 1H), 6.58 (s, 1H), 4.23 (m, 4H), 4.24(m, 4H); 19F NMR (CDCl3): δ −47445; LCMS: ret. time: 21.81 min.; purity: 96%; MS (m/e): 397 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C20H17FN4O4
